US09023840B2
Step 2: 5-{3-(cyanomethyl)-3-[4-(7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}-N-[(1S)-1-cyclopropyl-2,2,2-trifluoroethyl]pyrazine-2-carboxamide
N,N-Diisopropylethylamine (0.11 mL, 0.62 mmol) was added to a mixture of {3-[4-(7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-3-yl}acetonitrile dihydrochloride (110 mg, 0.22 mmol) and 5-chloro-N-[(1S)-1-cyclopropyl-2,2,2-trifluoroethyl]pyrazine-2-carboxamide (58 mg, 0.21 mmol) in NMP (2.0 mL). The reaction mixture was stirred at 125° C. for 2 h. The reaction mixture was worked up with saturated aqueous NaHCO3, and extracted with dichloromethylene (3×20 mL). The combined organic layers were washed with brine, dried over MgSO4, filtered and concentrated under reduced pressure. The residue was purified by flash chromatography on a silica gel column with ethyl acetate in dichloromethylene (0-65%) to afford the desired product (80 mg, 59%). LCMS (M+H)+: m/z=653.2.

reactant | N,N-Diisopropylethylamine | 0.62 mmol, 0.11 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | {3-[4-(7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-3-yl}acetonitrile dihydrochloride | 0.22 mmol, 110 mg | Cl.Cl.C[Si](CCOCN1C=CC2=C1N=CN=C2C=2C=NN(C2)C2(CNC2)CC#N)(C)C
reactant | 5-chloro-N-[(1S)-1-cyclopropyl-2,2,2-trifluoroethyl]pyrazine-2-carboxamide | 0.21 mmol, 58 mg | ClC=1N=CC(=NC1)C(=O)N[C@H](C(F)(F)F)C1CC1 | C10H9ClF3N3O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | NMP | 2.0 mL | CN1CCCC1=O | C5H9NO
product | 5-{3-(cyanomethyl)-3-[4-(7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}-N-[(1S)-1-cyclopropyl-2,2,2-trifluoroethyl]pyrazine-2-carboxamide | 80 mg, 59% | C(#N)CC1(CN(C1)C=1N=CC(=NC1)C(=O)N[C@H](C(F)(F)F)C1CC1)N1N=CC(=C1)C=1C2=C(N=CN1)N(C=C2)COCC[Si](C)(C)C | C30H35F3N10O2Si
